US05371100
To a solution of (2R,3R)-2-(4-chlorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol (12.4 g) and triethylamine (7.6 ml) in ethyl acetate (200 ml) was added dropwise methanesulfonyl chloride (6.25 g) under ice-cooling. After stirring for 45 minutes at room temperature, the reaction mixture was washed with water and saturated saline, dried over magnesium sulfate and distilled under reduced pressure to give (2R,3R)-2-(4-chlorophenyl)-2-hydroxy-1-(1H-1,2,4-triazol-1-yl)-3-butyl methanesulfonate.

reactant | (2R,3R)-2-(4-chlorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol | 12.4 g | ClC1=CC=C(C=C1)[C@@](CN1N=CN=C1)([C@@H](C)O)O | C12H14ClN3O2
reactant | triethylamine | 7.6 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.25 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3R)-2-(4-chlorophenyl)-2-hydroxy-1-(1H-1,2,4-triazol-1-yl)-3-butyl methanesulfonate | CS(=O)(=O)O[C@@H]([C@@](CN1N=CN=C1)(O)C1=CC=C(C=C1)Cl)C | C13H16ClN3O4S
